US08614226B2
A solution of 415 mg (1.00 mmol) 4-(5-bromo-pyridin-3-yl)-2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridine in 5 ml DMF was flushed with nitrogen and subsequently treated with 70 mg (0.10 mmol) bis-(triphenylphosphine)-palladium(II)-chloride, 6.0 mg (0.03 mmol) cuprous iodide, 0.42 ml (3.0 mmol) triethylamine and 450 μl (2.5 mmol) triethylsilyl acetylene. The resulting slurry was stirred at 120° C. for two hours. The reaction mixture was cooled to room temperature and partitioned between ethylacetate and brine. The combined organic phases were dried with sodium sulfate and evaporated yielding 2-(5-chloro-2-fluoro-phenyl)-4-(5-triethylsilanylethynyl-pyridin-3-yl)-[1,8]naphthyridine as brown solid; HPLC-MS: 2.73 min, [M+H] 474.

reactant | 4-(5-bromo-pyridin-3-yl)-2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridine | 1.00 mmol, 415 mg | BrC=1C=C(C=NC1)C1=CC(=NC2=NC=CC=C12)C1=C(C=CC(=C1)Cl)F | C19H10BrClFN3
reactant | triethylamine | 3.0 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | triethylsilyl acetylene | 2.5 mmol, 450 μl | C(C)[Si](CC)(CC)C#C | C8H16Si
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | bis-(triphenylphosphine)-palladium(II)-chloride | 0.10 mmol, 70 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2-(5-chloro-2-fluoro-phenyl)-4-(5-triethylsilanylethynyl-pyridin-3-yl)-[1,8]naphthyridine | ClC=1C=CC(=C(C1)C1=NC2=NC=CC=C2C(=C1)C=1C=NC=C(C1)C#C[Si](CC)(CC)CC)F | C27H25ClFN3Si
